US05985935
A solution of 150 mg (1.1 mmol) of 4-hydroxyacetophenone and 220 mg (1.0 mmol) of 2-methoxy4-hydroxy-5-(1,1-dimethylprop-2-enyl)benzaldehyde in 3 ml of ethanol was left on an ice bath, and 1.1 ml of ethanol saturated with dry hydrogen chloride was added. The solution was left for 2 hours and poured into 10 ml of water. The mixture was concentrated in vacuo and extracted with two 10 ml portions of ethyl acetate, and the extract was dried and concentrated in vacuo to give 281 mg of an oil from which 119 mg of licochalcone A was isolated by column chromatography over silica gel 60 (Merck 0.063-0.200 mm, 23 g) using petroleum ether-ethyl acetate (1:1, 1000 ml) as an eluent.

reactant | 4-hydroxyacetophenone | 1.1 mmol, 150 mg | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | 2-methoxy4-hydroxy-5-(1,1-dimethylprop-2-enyl)benzaldehyde | 1.0 mmol, 220 mg | COC1=C(C=O)C=C(C(=C1)O)C(C=C)(C)C | C13H16O3
reactant | hydrogen chloride | Cl | ClH
reactant | water | 10 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 1.1 ml | C(C)O | C2H6O
product | licochalcone A | 119 mg | CC(C)(C=C)C1=C(C=C(C(=C1)/C=C/C(=O)C2=CC=C(C=C2)O)OC)O | C21H22O4
